US04001419
A solution of n-butyl lithium in hexane (2.25M., 45 ml.) is slowly added to a solution of diphenyl ether (8.5 g.) in sodium dried diethyl ether (200 ml.) under an atmosphere of argon. The mixture is stirred for 24 hours at room temperature, cooled to 0° C. and a solution of 1-methyl-4-piperidone (5.7 g.) in diethyl ether (25 ml.) is slowly added. The mixture is stirred at room temperature for 24 hours. Water is then carefully added and the organic layer is separated, dried with MgS04 and evaporated to give a white solid which is recrystallised from ether to give 4-hydroxy-1-methyl-4-(2'-phenoxy(phenylpiperidine, m.p. 118°-119° C.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | diphenyl ether | 8.5 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | 1-methyl-4-piperidone | 5.7 g | CN1CCC(CC1)=O | C6H11NO
reactant | Water | O | H2O
solvent | hexane | 2.25M, 45 ml | CCCCCC | C6H14
solvent | sodium | 200 ml | [Na] | Na
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | phenylpiperidine | C1(=CC=CC=C1)N1CCCCC1 | C11H15N
